US06702997B2
In an alternative embodiment, the inhalation solution of the present invention may be prepared as follows: (i) fitting a high density polyethylene (HDPE) or stainless steel formulation tank with a bottom drain and peristaltic recirculation system (for HDPE) or tri-blender (for stainless steel) for mixing; (ii) filling the tank with approximately 90% of the required amount of Purified Water USP at a temperature of between 18° C. to 25° C.; while mixing, (iii) adding sulfuric acid, Sodium Chloride USP, and at least a therapeutically effective pediatric amount of Albuterol Sulfate USP to the tank; (iv) continue mixing until all chemical components are dissolved; (v) adding Purified Water USP to adjust the final volume, if necessary, thus producing an albuterol mixture.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | Sodium Chloride | [Cl-].[Na+]
reactant | Albuterol Sulfate | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O.OS(=O)(=O)O
solvent | Water | O | H2O
product | albuterol | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O | C13H21NO3
